US04916148
A mixture of 1,2-dihydro-1,1-dimethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonitrile (0.07 g), ethanol (2 ml) and sodium borohydride (0.05 g) was stirred at room temperature for 18 h. Water (10 ml) was added, and the mixture was extracted with chloroform, and the extract was dried and evaporated to dryness under reduced pressure. The residue was recrystallised from ethyl acetate to give 1,2-dihydro-2-hydroxy-1,1-dimethyl-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonitrile, m.p. 219°-222°.

reactant | 1,2-dihydro-1,1-dimethyl-2-oxo-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonitrile | 0.07 g | CC1(C2=C(OC1=O)C=CC1=CC(=C(C=C12)CN1N=CN=C1)C#N)C | C18H14N4O2
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | sodium borohydride | 0.05 g | [BH4-].[Na+]
solvent | Water | 10 ml | O | H2O
product | 1,2-dihydro-2-hydroxy-1,1-dimethyl-8-(1H-1,2,4-triazol-1-ylmethyl)naphtho[2,1-b]furan-7-carbonitrile | OC1C(C2=C(O1)C=CC1=CC(=C(C=C12)CN1N=CN=C1)C#N)(C)C | C18H16N4O2
